US05442063
N-methyl-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-oxoacetamide (11.89 g, 0.04 mol) was suspended in methanol (40 ml). Hydroxylamine sulfate (4.92 g, 0.06 mol) was added, and the mixture was refluxed for 8 hours. After completion of the reaction, methanol was evaporated under reduced pressure. The resulting residue (E/Z=46/54) was dissolved in methylene chloride (80 ml), conc. hydrochloric acid (20 ml) was added, and the mixture was stirred at room temperature for 15 hours. Water (50 ml) and toluene (80 ml) were added, and the mixture was stirred at room temperature for 5 minutes. Then the resulting crystals were separated by filtration, washed with water (50 ml) and toluene (50 ml) and dried to give (E)-N-methyl-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyiminoacetamide (11.32 g, Yield: 90.6%, E/Z=99/1).

reactant | N-methyl-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-oxoacetamide | 0.04 mol, 11.89 g | CNC(C(=O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)=O | C18H19NO3
reactant | Hydroxylamine sulfate | 0.06 mol, 4.92 g | S(=O)(=O)(O)O.NO
solvent | methanol | 40 ml | CO | CH4O
product | (E)-N-methyl-2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxyiminoacetamide | 11.32 g, Yield: 90.6% | CNC(/C(=N/O)/C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)=O | C18H20N2O3
